US07618990B2
Step 2: (4S)-4-[(benzyloxy)methyl]-3-[4-(4-bromophenyl)-1,3-thiazol-2-yl]-1,3-oxazolidin-2-one
(R)-3-Benzyloxy-2-[4-(4-bromo-phenyl)-thiazol-2-ylamino]-propan-1-ol (110 mg, 0.26 mmol), prepared in the previous step, was dissolved in methylene chloride (10 mL), cooled to 0° C. and triethylamine (0.36 mL, 2.6 mmol) was added followed by triphosgene (0.19 g, 0.65 mmol). The mixture was stirred for 3 h, diluted with methylene chloride and washed with saturated NaHCO3, brine, dried over anhydrous MgSO4, filtered and concentrated. Flash chromatography (10% acetone in hexane) afforded the title compound (35 mg, 30%). HRMS: calcd for C20H17BrN2O3S+H+, 445.02160; found (ESI, [M+H]+), 445.0201; Analytical HPLC: purity 100% at 210-370 nm, 11.1 min; 93.8% at 238 nm, 11.1 min; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min.

reactant | (R)-3-Benzyloxy-2-[4-(4-bromo-phenyl)-thiazol-2-ylamino]-propan-1-ol | 0.26 mmol, 110 mg | C(C1=CC=CC=C1)OC[C@@H](CO)NC=1SC=C(N1)C1=CC=C(C=C1)Br | C19H19BrN2O2S
reactant | triethylamine | 2.6 mmol, 0.36 mL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 0.65 mmol, 0.19 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (4S)-4-[(benzyloxy)methyl]-3-[4-(4-bromophenyl)-1,3-thiazol-2-yl]-1,3-oxazolidin-2-one | 35 mg, 30% | C(C1=CC=CC=C1)OC[C@@H]1N(C(OC1)=O)C=1SC=C(N1)C1=CC=C(C=C1)Br | C20H17BrN2O3S
